US07622480B2
This compound was prepared following the procedure described in example 4, part E, starting with 1.35 g (5.25 mmol) of 1-butyl-3-piperidin yl-1H-pyrrolo[2,3-c]pyridine and 1.35 g (6.3 mmol) of 2-(2-chloroethoxy)benzoic acid methyl ester. After standard work-up and purification, 1.1 g (49% yield) of 2-{2-[4-(1-butyl-1H-pyrrolo[2,3-c]pyridin-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid methyl ester were obtained.

reactant | 1-butyl-3-piperidin yl-1H-pyrrolo[2,3-c]pyridine | 5.25 mmol, 1.35 g | C(CCC)N1C=C(C=2C1=CN=CC2)N2CCCCC2 | C16H23N3
reactant | 2-(2-chloroethoxy)benzoic acid methyl ester | 6.3 mmol, 1.35 g | COC(C1=C(C=CC=C1)OCCCl)=O | C10H11ClO3
product | 2-{2-[4-(1-butyl-1H-pyrrolo[2,3-c]pyridin-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid methyl ester | 1.1 g, 49% yield | COC(C1=C(C=CC=C1)OCCN1CCC(CC1)C1=CN(C2=CN=CC=C21)CCCC)=O | C26H33N3O3
